US07018988B2
4-{[(2S,4EZ)-2-(1H-benzimidazol-2-yl)-4-(cyanomethylene)pyrrolidinyl]carbonyl}benzonitrile
Following the general method as outlined in Example 22, starting from (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(cyanomethylene)-2-pyrrolidinecarboxylic acid, 4-cyanobenzoyl chloride, and 1,2-benzenediamine the title compound was obtained in 84% purity by LC/MS. MS(ESI+): m/z=354.2.

reactant | (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(cyanomethylene)-2-pyrrolidinecarboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)=CC#N)C(=O)O | C12H16N2O4
reactant | 4-cyanobenzoyl chloride | C(#N)C1=CC=C(C(=O)Cl)C=C1 | C8H4ClNO
reactant | 1,2-benzenediamine | C=1(C(=CC=CC1)N)N | C6H8N2
product | 4-{[(2S,4EZ)-2-(1H-benzimidazol-2-yl)-4-(cyanomethylene)pyrrolidinyl]carbonyl}benzonitrile | N1C(=NC2=C1C=CC=C2)[C@H]2N(CC(C2)=CC#N)C(=O)C2=CC=C(C#N)C=C2 | C21H15N5O
